US09102688B2
General Procedure 42: N-Phenyl(quinolin-8-ylamino)sulfonamide (Example Compound 46)
Chlorosulfonic acid (260 mg, 2.2 mmol) in DCM was added to a solution of 8-aminoquinoline (300 mg, 2.08 mmol) and TEA (310 mg, 3.12 mmol) in dry DCM (10 ml) at 0° C. and the mixture was stirred for 30 min. The reaction was allowed to warm to room temperature and stirring was continued for 1 h. PCl5 (460 mg, 2.20 mmol) was added to the reaction and the mixture was heated under reflux for 1 h, then allowed to cool to room temperature. Aniline (770 mg, 8.3 mmol) and DIPEA (0.72 ml, 4.16 mmol) were added and the reaction stirred at room temperature for 2.5 h. The reaction was quenched with water and extracted with DCM. The organic phase was washed with water, brine, dried (Na2SO4) and concentrated in vacuo. The crude residue was purified by column chromatography with DCM as the eluent to give the title compound (70 mg, 11%).

reactant | Chlorosulfonic acid | 2.2 mmol, 260 mg | ClS(=O)(=O)O | ClHO3S
reactant | 8-aminoquinoline | 2.08 mmol, 300 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | PCl5 | 2.20 mmol, 460 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Aniline | 8.3 mmol, 770 mg | NC1=CC=CC=C1 | C6H7N
reactant | DIPEA | 4.16 mmol, 0.72 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-Phenyl(quinolin-8-ylamino)sulfonamide | 70 mg, 11% | C1(=CC=CC=C1)NS(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C15H13N3O2S
